US05620676
2 -(5 -Hexenylthio) adenosine 5'-diphosphate trisammonium salt:
NMR of 2-(5-hexenylthio)adenosine 5'-triphosphate tetraammonium salt: 1H NMR (D2) d: 8.41 (S, 1H, H-8), 6.13 (d, J=5.7 Hz, 1H, H-1'), 4.64 (m, 1H, H-3'), 4.37 (m, 1H, H-4'), 4.24 (din, 2H, H-5'). High Res. FAB: calcd. for C16H25O13N5P3S: 620.0382. Found: 620.0428. Retention time: 7.7 min (91% purity) using solvent system I, 7.4 min (>98% purity) using solvent system II. 2-(5-Hexenylthio)adenosine 5'-triphosphate was also synthesized by the triphosphorylation procedure recited in Example 1.

reactant | 2-(5-hexenylthio)adenosine 5'-triphosphate tetraammonium salt | [NH4+].[NH4+].[NH4+].[NH4+].P([O-])(=O)(OP(=O)([O-])OP(=O)([O-])[O-])OC[C@@H]1[C@H]([C@H]([C@@H](O1)N1C=NC=2C(N)=NC(=NC12)SCCCCC=C)O)O
reactant | 2-(5-Hexenylthio)adenosine 5'-triphosphate | P(O)(=O)(OP(=O)(O)OP(=O)(O)O)OC[C@@H]1[C@H]([C@H]([C@@H](O1)N1C=NC=2C(N)=NC(=NC12)SCCCCC=C)O)O | C16H26N5O13P3S
product | 2 -(5 -Hexenylthio) adenosine 5'-diphosphate trisammonium salt | [NH4+].[NH4+].[NH4+].P([O-])(=O)(OP(=O)([O-])[O-])OC[C@@H]1[C@H]([C@H]([C@@H](O1)N1C=NC=2C(N)=NC(=NC12)SCCCCC=C)O)O | InChI=1S/C16H25N5O10P2S.3H3N/c1-2-3-4-5-6-34-16-19-13(17)10-14(20-16)21(8-18-10)15-12(23)11(22)9(30-15)7-29-33(27,28)31-32(24,25)26;;;/h2,8-9,11-12,15,22-23H,1,3-7H2,(H,27,28)(H2,17,19,20)(H2,24,25,26);3*1H3/t9-,11-,12-,15-;;;/m1.../s1
